US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-benzyloxycarbonylpiperidin-3-ylamino)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine (50 mg, 0.14 mmol) in 1,4-dioxane (5 ml) was added potassium carbonate (0.42 mmol) and benzyl 3-aminopiperidine-1-carboxylate hydrogen chloride (0.15 mmol). The reaction mixture was stirred at room temperature for 24 hours whereupon the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1% CH3OH in CH2Cl2), yielding the pure title compound (59 mg) which was characterized by its mass spectrum: MS m/z (%): 507 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine | 0.14 mmol, 50 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)S(=O)(=O)C | C14H13FN4O2S2
reactant | potassium carbonate | 0.42 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 3-aminopiperidine-1-carboxylate hydrogen chloride | 0.15 mmol | Cl.NC1CN(CCC1)C(=O)OCC1=CC=CC=C1
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-benzyloxycarbonylpiperidin-3-ylamino)-thiazolo[5,4-d]pyrimidine | 59 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)NC2CN(CCC2)C(=O)OCC2=CC=CC=C2 | C26H27FN6O2S
